US07399766B2
2-Amino-4-hydroxybutyric acid methyl ester hydrochloride (17)
A suspension of DL-homoserine (1.00 g, 8.39 mmol) in methanol (40 mL) was placed in an ice bath. Trimethylsilyl chloride (2.34 mL, 18.5 mmol) was added dropwise via syringe. The reaction mixture gradually became homogenous and was further stirred at rt for 14 h, concentrated by rotary evaporation, and further dried under high vacuum. The crude oil thus obtained was used for the next step without further purification. 1H NMR (300 MHz, CD3OD) δ 2.00-2.24 (m, 2H), 3.70-3.80 (m, 2H), 3.85 (s, 3H), 4.12-4.22 (m, 1H). m/z (ESI) 134 [C5H11NO3+H]+.

reactant | DL-homoserine | 8.39 mmol, 1.00 g | NC(CCO)C(=O)O | C4H9NO3
reactant | Trimethylsilyl chloride | 18.5 mmol, 2.34 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | methanol | 40 mL | CO | CH4O
product | 2-Amino-4-hydroxybutyric acid methyl ester hydrochloride | Cl.COC(C(CCO)N)=O | InChI=1S/C5H11NO3.ClH/c1-9-5(8)4(6)2-3-7;/h4,7H,2-3,6H2,1H3;1H
